US07420001B2
Amide coupling of benzofuran-2-carboxylic acid with 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine was done according to Example 20, Step 4 to give benzofuran-2-carboxylic acid [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide in 83% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.3 (s, 12 H) 7.4 (m, 1 H) 7.5 (m, 1 H) 7.7 (d, J=8.3 Hz, 2 H) 7.7 (dd, J=8.5, 0.9 Hz, 1 H) 7.8 (m, 4 H) 10.6 (s, 1 H)

reactant | benzofuran-2-carboxylic acid | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
product | benzofuran-2-carboxylic acid [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide | 83% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1)C=CC=C2)C | C21H22BNO4
